* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.005921151522244664
Fd1_1 0 s1 V1 -0.2960575761122332
Gr1_1_1 0 s1 x1_a1 0 8906971022022.037
Gr2_1_1 0 s1 x2_a1 0 -11308408599872.883
Gr3_re_1_1 0 s1 x3_re_a1 0 -358525778475.5317
Gr3_im_1_1 0 s1 x3_im_a1 0 535061402217.7022
Gr4_1_1 0 s1 x4_a1 0 4716502586077.276
Gr5_re_1_1 0 s1 x5_re_a1 0 393925303575.4324
Gr5_im_1_1 0 s1 x5_im_a1 0 468166003085.4406
Gr6_re_1_1 0 s1 x6_re_a1 0 -292869613.94460046
Gr6_im_1_1 0 s1 x6_im_a1 0 948147637.1246251
Gr7_re_1_1 0 s1 x7_re_a1 0 2985158605.231844
Gr7_im_1_1 0 s1 x7_im_a1 0 -854084425.9883192
Gr8_re_1_1 0 s1 x8_re_a1 0 2705271.2086831476
Gr8_im_1_1 0 s1 x8_im_a1 0 -7854637.8533432195
Gr9_1_1 0 s1 x9_a1 0 8426958908.374395
Gd1_2 0 s1 p2 0 -0.001625163947988726
Fd1_2 0 s1 V2 -0.08125819739943631
Gr1_1_2 0 s1 x1_a2 0 2059925799182.7856
Gr2_1_2 0 s1 x2_a2 0 -4982455942600.714
Gr3_re_1_2 0 s1 x3_re_a2 0 -363893168106.43365
Gr3_im_1_2 0 s1 x3_im_a2 0 353497113009.52057
Gr4_1_2 0 s1 x4_a2 0 3014053966798.5903
Gr5_re_1_2 0 s1 x5_re_a2 0 278940317728.1393
Gr5_im_1_2 0 s1 x5_im_a2 0 380096301381.9301
Gr6_re_1_2 0 s1 x6_re_a2 0 -317932273.10879284
Gr6_im_1_2 0 s1 x6_im_a2 0 554323917.5232915
Gr7_re_1_2 0 s1 x7_re_a2 0 2303890495.841837
Gr7_im_1_2 0 s1 x7_im_a2 0 -137411574.72348186
Gr8_re_1_2 0 s1 x8_re_a2 0 1947444.5638400924
Gr8_im_1_2 0 s1 x8_im_a2 0 -2924905.4662987175
Gr9_1_2 0 s1 x9_a2 0 10225086947.845287
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 7.464616523329629e-13
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 1.909656179782453e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.1055958130013426e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 139031403536.88437
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -139031403536.88437
Rp3_im_im_a1 0 x3_im_a1 1.1055958130013426e-11
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 4.831329627015277e-12
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.0049059046049674e-11
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 87630003211.96735
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -87630003211.96735
Rp5_im_im_a1 0 x5_im_a1 1.0049059046049674e-11
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.2146006865888604e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 92751708754.60349
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -92751708754.60349
Rp6_im_im_a1 0 x6_im_a1 1.2146006865888604e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 7.652182698636388e-11
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 92793831189.74309
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -92793831189.74309
Rp7_im_im_a1 0 x7_im_a1 7.652182698636388e-11
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 9.439136228674191e-09
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 73356155789.96326
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -73356155789.96326
Rp8_im_im_a1 0 x8_im_a1 9.439136228674191e-09
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 2.9008523011604626e-11
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.001625163947988726
Fd2_1 0 s2 V1 -0.08125819739943631
Gr1_2_1 0 s2 x1_a1 0 2059925799182.8135
Gr2_2_1 0 s2 x2_a1 0 -4982455942600.553
Gr3_re_2_1 0 s2 x3_re_a1 0 -363893168106.4112
Gr3_im_2_1 0 s2 x3_im_a1 0 353497113009.50336
Gr4_2_1 0 s2 x4_a1 0 3014053966798.4453
Gr5_re_2_1 0 s2 x5_re_a1 0 278940317728.1243
Gr5_im_2_1 0 s2 x5_im_a1 0 380096301381.9085
Gr6_re_2_1 0 s2 x6_re_a1 0 -317932273.10874957
Gr6_im_2_1 0 s2 x6_im_a1 0 554323917.5232519
Gr7_re_2_1 0 s2 x7_re_a1 0 2303890495.841706
Gr7_im_2_1 0 s2 x7_im_a1 0 -137411574.7234094
Gr8_re_2_1 0 s2 x8_re_a1 0 1947444.5638381033
Gr8_im_2_1 0 s2 x8_im_a1 0 -2924905.466298509
Gr9_2_1 0 s2 x9_a1 0 10225086947.845362
Gd2_2 0 s2 p2 0 -0.0007557793521984666
Fd2_2 0 s2 V2 -0.037788967609923334
Gr1_2_2 0 s2 x1_a2 0 -3545625385563.7065
Gr2_2_2 0 s2 x2_a2 0 173026202801.774
Gr3_re_2_2 0 s2 x3_re_a2 0 -383040533596.02765
Gr3_im_2_2 0 s2 x3_im_a2 0 152086355809.81754
Gr4_2_2 0 s2 x4_a2 0 1743873802318.4338
Gr5_re_2_2 0 s2 x5_re_a2 0 142195399035.30496
Gr5_im_2_2 0 s2 x5_im_a2 0 402185610866.0579
Gr6_re_2_2 0 s2 x6_re_a2 0 -1496779998.6125193
Gr6_im_2_2 0 s2 x6_im_a2 0 1994059250.8293512
Gr7_re_2_2 0 s2 x7_re_a2 0 4019643248.3940954
Gr7_im_2_2 0 s2 x7_im_a2 0 -3848748336.5164256
Gr8_re_2_2 0 s2 x8_re_a2 0 -4865703.388552757
Gr8_im_2_2 0 s2 x8_im_a2 0 -679994.1667878905
Gr9_2_2 0 s2 x9_a2 0 11123384711.952965
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 7.464616523329629e-13
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 1.909656179782453e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.1055958130013426e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 139031403536.88437
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -139031403536.88437
Rp3_im_im_a2 0 x3_im_a2 1.1055958130013426e-11
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 4.831329627015277e-12
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.0049059046049674e-11
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 87630003211.96735
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -87630003211.96735
Rp5_im_im_a2 0 x5_im_a2 1.0049059046049674e-11
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.2146006865888604e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 92751708754.60349
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -92751708754.60349
Rp6_im_im_a2 0 x6_im_a2 1.2146006865888604e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 7.652182698636388e-11
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 92793831189.74309
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -92793831189.74309
Rp7_im_im_a2 0 x7_im_a2 7.652182698636388e-11
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 9.439136228674191e-09
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 73356155789.96326
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -73356155789.96326
Rp8_im_im_a2 0 x8_im_a2 9.439136228674191e-09
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 2.9008523011604626e-11
.ENDS s_equivalent
