* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -2.0892044917062842e-05
Fd1_1 0 s1 V1 -0.0010446022458531423
Gr1_1_1 0 s1 x1_a1 0 6064958622624829.0
Gr2_1_1 0 s1 x2_a1 0 -1.228238050385241e+16
Gr3_re_1_1 0 s1 x3_re_a1 0 -9.473392048635685e+16
Gr3_im_1_1 0 s1 x3_im_a1 0 8700974312115165.0
Gr4_re_1_1 0 s1 x4_re_a1 0 -1.3447990578028283e+18
Gr4_im_1_1 0 s1 x4_im_a1 0 2.0149189652981056e+17
Gr5_re_1_1 0 s1 x5_re_a1 0 1.4919794261460818e+18
Gr5_im_1_1 0 s1 x5_im_a1 0 6.7826109584751176e+16
Gr6_re_1_1 0 s1 x6_re_a1 0 1.580607231818981e+17
Gr6_im_1_1 0 s1 x6_im_a1 0 6.068008935858049e+16
Gr7_re_1_1 0 s1 x7_re_a1 0 -3.5915998890893766e+17
Gr7_im_1_1 0 s1 x7_im_a1 0 1.8865944752754532e+16
Gr8_re_1_1 0 s1 x8_re_a1 0 1.5479386683203904e+17
Gr8_im_1_1 0 s1 x8_im_a1 0 2996779116251566.0
Gr9_1_1 0 s1 x9_a1 0 -1.1626159414664586e-17
Gd1_2 0 s1 p2 0 -3.875154658065761e-05
Fd1_2 0 s1 V2 -0.0019375773290328804
Gr1_1_2 0 s1 x1_a2 0 4887716238166.159
Gr2_1_2 0 s1 x2_a2 0 1.0927045323993196e+16
Gr3_re_1_2 0 s1 x3_re_a2 0 8.427938882516384e+16
Gr3_im_1_2 0 s1 x3_im_a2 0 -7742241181185154.0
Gr4_re_1_2 0 s1 x4_re_a2 0 1.1963714690292974e+18
Gr4_im_1_2 0 s1 x4_im_a2 0 -1.792545841300691e+17
Gr5_re_1_2 0 s1 x5_re_a2 0 -1.32731932376975e+18
Gr5_im_1_2 0 s1 x5_im_a2 0 -6.034059615645775e+16
Gr6_re_1_2 0 s1 x6_re_a2 0 -1.4061554762224574e+17
Gr6_im_1_2 0 s1 x6_im_a2 0 -5.3983234379310216e+16
Gr7_re_1_2 0 s1 x7_re_a2 0 3.1953064270339136e+17
Gr7_im_1_2 0 s1 x7_im_a2 0 -1.678383690109676e+16
Gr8_re_1_2 0 s1 x8_re_a2 0 -1.3771015191135069e+17
Gr8_im_1_2 0 s1 x8_im_a2 0 -2666044701572208.0
Gr9_1_2 0 s1 x9_a2 0 -1.0546182330487837e-17
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 4.65946062918304e-17
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 2.3341918571388858e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 5.770600628676507e-12
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 137795715321.66968
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -137795715321.66968
Rp3_im_im_a1 0 x3_im_a1 5.770600628676507e-12
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.3927839940955044e-07
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 54995339614.524025
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -54995339614.524025
Rp4_im_im_a1 0 x4_im_a1 1.3927839940955044e-07
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.3097002941951532e-09
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 39282811031.786736
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -39282811031.786736
Rp5_im_im_a1 0 x5_im_a1 1.3097002941951532e-09
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 2.4839340217221634e-09
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 37934417560.60399
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -37934417560.60399
Rp6_im_im_a1 0 x6_im_a1 2.4839340217221634e-09
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 5.944751167280237e-08
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 26090539882.211052
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -26090539882.211052
Rp7_im_im_a1 0 x7_im_a1 5.944751167280237e-08
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.955876952098027e-09
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 14253077255.39025
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -14253077255.39025
Rp8_im_im_a1 0 x8_im_a1 1.955876952098027e-09
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 292098.9345922927
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -3.875154658065761e-05
Fd2_1 0 s2 V1 -0.0019375773290328804
Gr1_2_1 0 s2 x1_a1 0 4887716238229.77
Gr2_2_1 0 s2 x2_a1 0 1.0927045316603094e+16
Gr3_re_2_1 0 s2 x3_re_a1 0 8.427938880044322e+16
Gr3_im_2_1 0 s2 x3_im_a1 0 -7742241162669894.0
Gr4_re_2_1 0 s2 x4_re_a1 0 1.196371468892789e+18
Gr4_im_2_1 0 s2 x4_im_a1 0 -1.792545840925519e+17
Gr5_re_2_1 0 s2 x5_re_a1 0 -1.3273193234950991e+18
Gr5_im_2_1 0 s2 x5_im_a1 0 -6.034059614382395e+16
Gr6_re_2_1 0 s2 x6_re_a1 0 -1.4061554760358907e+17
Gr6_im_2_1 0 s2 x6_im_a1 0 -5.398323436800687e+16
Gr7_re_2_1 0 s2 x7_re_a1 0 3.195306425477306e+17
Gr7_im_2_1 0 s2 x7_im_a1 0 -1.6783836897581512e+16
Gr8_re_2_1 0 s2 x8_re_a1 0 -1.3771015188406962e+17
Gr8_im_2_1 0 s2 x8_im_a1 0 -2666044701013751.5
Gr9_2_1 0 s2 x9_a1 0 -1.0546182327661592e-17
Gd2_2 0 s2 p2 0 -3.081980410021862e-05
Fd2_2 0 s2 V2 -0.0015409902050109309
Gr1_2_2 0 s2 x1_a2 0 6066163419245119.0
Gr2_2_2 0 s2 x2_a2 0 -9719237509962420.0
Gr3_re_2_2 0 s2 x3_re_a2 0 -7.496167893282379e+16
Gr3_im_2_2 0 s2 x3_im_a2 0 6887660366625961.0
Gr4_re_2_2 0 s2 x4_re_a2 0 -1.0640796723900375e+18
Gr4_im_2_2 0 s2 x4_im_a2 0 1.5943493335960864e+17
Gr5_re_2_2 0 s2 x5_re_a2 0 1.180561182196483e+18
Gr5_im_2_2 0 s2 x5_im_a2 0 5.36689148810106e+16
Gr6_re_2_2 0 s2 x6_re_a2 0 1.2506688996848114e+17
Gr6_im_2_2 0 s2 x6_im_a2 0 4.801446786221337e+16
Gr7_re_2_2 0 s2 x7_re_a2 0 -2.8421094811476832e+17
Gr7_im_2_2 0 s2 x7_im_a2 0 1.4928097812792222e+16
Gr8_re_2_2 0 s2 x8_re_a2 0 1.224837753580128e+17
Gr8_im_2_2 0 s2 x8_im_a2 0 2371268050651390.5
Gr9_2_2 0 s2 x9_a2 0 1.0449882001108422e-17
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 4.65946062918304e-17
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 2.3341918571388858e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 5.770600628676507e-12
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 137795715321.66968
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -137795715321.66968
Rp3_im_im_a2 0 x3_im_a2 5.770600628676507e-12
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.3927839940955044e-07
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 54995339614.524025
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -54995339614.524025
Rp4_im_im_a2 0 x4_im_a2 1.3927839940955044e-07
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.3097002941951532e-09
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 39282811031.786736
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -39282811031.786736
Rp5_im_im_a2 0 x5_im_a2 1.3097002941951532e-09
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 2.4839340217221634e-09
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 37934417560.60399
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -37934417560.60399
Rp6_im_im_a2 0 x6_im_a2 2.4839340217221634e-09
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 5.944751167280237e-08
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 26090539882.211052
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -26090539882.211052
Rp7_im_im_a2 0 x7_im_a2 5.944751167280237e-08
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.955876952098027e-09
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 14253077255.39025
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -14253077255.39025
Rp8_im_im_a2 0 x8_im_a2 1.955876952098027e-09
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 292098.9345922927
.ENDS s_equivalent
